US08067621B2
10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,7,8,9,10,10a-hexahydro-6H-benzo[c]chromen-8-yl chloroformate
10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,7,8,9,10,10a-hexahydro-6H-benzo[c]chromen-8-ol (0.46 g, 1.11 mmole) was dissolved in 30 ml DCM. Phosgene (20% in toluene, 4 ml) and pyridine (1 ml) were added and the reaction was stirred at room temperature for 10 minutes. 20 ml DCM was added and the reaction was quenched by slowly adding 10 ml water. The organic layer washed with 50 ml 1N HCl solution, dried over sodium sulfate. After the solvent was removed, the residue was purified by column using EtOAc/Hex. as the solvent (gradient from 0/100 to 25/75 in 25 minutes). Yield: 0.37 g, 70%. 1H NMR (CDCl3 400 MHz) δ 7.62 (d, 2H, J=8.8 Hz), 7.50 (d, 2H, J=8.8 Hz), 7.06-7.13 (m, 1H), 6.40-6.47 (m, 1H), 5.28 (dd, 1H, J=11.7 and 2.9 Hz), 5.05 (s, 1H), 4.14 (d, 1H, J=11.7 Hz), 3.02 (dt, J=13.2 and 2.9 Hz, 1H), 2.31-2.49 (m, 2H), 2.01-2.16 (m, 2H), 1.66-1.75 (m, 1H), 1.30-1.40 (m, 1H).

reactant | 10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,7,8,9,10,10a-hexahydro-6H-benzo[c]chromen-8-ol | 1.11 mmole, 0.46 g | ClC1=CC=C(C=C1)S(=O)(=O)C12C(COC3=C(C=CC(=C13)F)F)CC(CC2)O | C19H17ClF2O4S
reactant | Phosgene | 4 ml | C(=O)(Cl)Cl | CCl2O
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,7,8,9,10,10a-hexahydro-6H-benzo[c]chromen-8-yl chloroformate | ClC(=O)OC1CCC2(C(COC3=C(C=CC(=C23)F)F)C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C20H16Cl2F2O5S
